US06649611B2
5-Chloro-2-hydroxy-N-methyl-benzenesulfonamide
To a solution of sodium hydride (60% in mineral oil, 90.24 mg, 2.25 mmol) in dry dimethyl formamide was added thiophenol (0.225 ml, 2.25 mmol) dropwise. To this was then added 5-Chloro-2-methoxy-N-methyl-benzenesulfonamide (531 mg, 2.25 mmol) followed by refluxing for 4 hours. The reaction mixture was cooled, diluted with ethyl acetate and washed with a 1N sulfuric acid solution. The organic layer was separated, dried over magnesium sulfate, filtered and concentrated in vacuo. Chromatography on silica gel yielded the above titled compound (320 mg, 53% yield).

reactant | sodium hydride | 2.25 mmol, 90.24 mg | [H-].[Na+]
reactant | thiophenol | 2.25 mmol, 0.225 ml | C1(=CC=CC=C1)S | C6H6S
reactant | 5-Chloro-2-methoxy-N-methyl-benzenesulfonamide | 2.25 mmol, 531 mg | ClC=1C=CC(=C(C1)S(=O)(=O)NC)OC | C8H10ClNO3S
solvent | dimethyl formamide | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-Chloro-2-hydroxy-N-methyl-benzenesulfonamide | 320 mg, 53% yield | ClC=1C=CC(=C(C1)S(=O)(=O)NC)O | C7H8ClNO3S
